US07423159B2
A mixture of [1-(4-fluorophenyl)-1H-imidazol-5-yl]methanol (2.50 g), activated manganese dioxide (10 g) and tetrahydrofuran (150 ml) was stirred at room temperature for 3 hrs. The reaction mixture was filtered, and the organic layer was concentrated to give 1-(4-fluorophenyl)-1H-imidazole-5-carbaldehyde (2.20 g, 89%) as crystals. Recrystallization thereof from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 131-133° C.

reactant | [1-(4-fluorophenyl)-1H-imidazol-5-yl]methanol | 2.50 g | FC1=CC=C(C=C1)N1C=NC=C1CO | C10H9FN2O
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-fluorophenyl)-1H-imidazole-5-carbaldehyde | 2.20 g, 89% | FC1=CC=C(C=C1)N1C=NC=C1C=O | C10H7FN2O
